US08283353B2
ethyl trans-3-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutanecarboxylate
A solution of ethyl 3-[(5-methyl-4H-1,2,4-triazol-3-yl)amino]cyclobutanecarboxylate (7.85 g), ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate (23.15 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (2.62 mL) in N,N-diethylaniline (70 mL) was stirred at 180° C. for 20 hr. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with 1 N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=85/15→65/35 (volume ratio)] to give the title compound as a pale-yellow amorphous compound (1.89 g, 10%).

reactant | ethyl 3-[(5-methyl-4H-1,2,4-triazol-3-yl)amino]cyclobutanecarboxylate | 7.85 g | CC=1NC(=NN1)NC1CC(C1)C(=O)OCC | C10H16N4O2
reactant | ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate | 23.15 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC(C(=O)OCC)C(CCC)=O)F | C22H22FNO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.62 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-diethylaniline | 70 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl trans-3-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutanecarboxylate | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2C[C@H](C2)C(=O)OCC)=O)F | C30H30FN5O3
